US08030320B2
180 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]-amino}propyl]-4-oxo-3-(1-propylbutyl)-3,4-dihydroquinazoline-8-carboxamide are dissolved in 2.5 cm3 of ethyl ether at a temperature close to 20° C. 0.53 cm3 of a 4M solution of hydrochloric acid in dioxane is added, while stirring and under argon, at a temperature of 5° C. The reaction mixture precipitates. The suspension is stirred for 10 min then the stirring is stopped in order to remove the supernatant. 5 cm3 of ethyl ether are again added. This operation is carried out 3 times. The last suspension is then concentrated under reduced pressure (5 kPa). 160 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-4-oxo-3-(1-propylbutyl)-3,4-dihydroquinazoline-8-carboxamide hydrochloride (1:1) are obtained in the form of a pale yellow solid.

reactant | N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]-amino}propyl]-4-oxo-3-(1-propylbutyl)-3,4-dihydroquinazoline-8-carboxamide | 180 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=CC=C2C(N(C=NC12)C(CCC)CCC)=O | C34H39F3N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 2.5 cm3 | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-4-oxo-3-(1-propylbutyl)-3,4-dihydroquinazoline-8-carboxamide hydrochloride | 160 mg | Cl.C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=CC=C2C(N(C=NC12)C(CCC)CCC)=O | InChI=1S/C34H39F3N4O3.ClH/c1-3-10-26(11-4-2)41-22-39-31-27(16-9-17-28(31)33(41)44)32(43)40-29(19-23-12-6-5-7-13-23)30(42)21-38-20-24-14-8-15-25(18-24)34(35,36)37;/h5-9,12-18,22,26,29-30,38,42H,3-4,10-11,19-21H2,1-2H3,(H,40,43);1H/t29-,30+;/m0./s1
